US04160863
Cefadroxil Monohydrate (crystallization from water-acetonitrile)
Primary grade cefadroxil (8.0 g.) was added in 1 gram increments to a mixture of 5 ml. water and 5 ml. acetonitrile at 40° C. over a 45 minute period. The solution was seeded initially by addition of cefadroxil.H2O crystals. The reaction mixture was stirred for 15 minutes followed by addition of 10 ml. of acetonitrile over 15 minutes. The crystal slurry was allowed to cool to room temperature (approximately 3 hours) and was then filtered. The filter cake was washed with 7 ml. of acetonitrile:water (3:1) and dried to give 6.25 g. (81.5%) of title product. Biopotency=950 mcg./mg. K.F.=4.7%. Chemical potency=965 mcg./mg.

reactant | cefadroxil | 8.0 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C16H17N3O5S
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | Cefadroxil Monohydrate | 81.5% | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C16H17N3O5S.H2O/c1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t10-,11-,15-;/m1./s1
